US09340544B2
Ammonia (75 mL) was condensed in a reaction flask equipped with a mechanical stirrer and cooled on an acetone dry-ice bath. A mixture of [9-benzyl-2-(3,5-dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-(4-chloro-phenyl)-amine and [7-benzyl-2-(3,5-dimethyl-pyrazol-1-yl)-7H-purin-6-yl]-(4-chloro-phenyl)-amine (1.5 g, 3.49 mmol) was added. Under vigorous stirring small pieces of sodium (2 equiv) were added. When the addition was completed the reaction mixture turned dark blue. The mixture was stirred for 2 minutes followed by careful addition of ammonium chloride. The reaction mixture was allowed to warm to room temperature. Water and a small amount of concentrated hydrochloric acid were added. The resulting solid was collected by filtration, washed with water and ether and dried to give [2-(3,5-dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-phenyl-amine (590 mg, 50%) as a white solid.

reactant | Ammonia | 75 mL | N | H3N
reactant | [9-benzyl-2-(3,5-dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-(4-chloro-phenyl)-amine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)NC1=CC=C(C=C1)Cl)N1N=C(C=C1C)C | C23H20ClN7
reactant | [7-benzyl-2-(3,5-dimethyl-pyrazol-1-yl)-7H-purin-6-yl]-(4-chloro-phenyl)-amine | 3.49 mmol, 1.5 g | C(C1=CC=CC=C1)N1C=NC2=NC(=NC(=C12)NC1=CC=C(C=C1)Cl)N1N=C(C=C1C)C | C23H20ClN7
reactant | sodium | 2 equiv | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
product | [2-(3,5-dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-phenyl-amine | 590 mg, 50% | CC1=NN(C(=C1)C)C1=NC(=C2N=CNC2=N1)NC1=CC=CC=C1 | C16H15N7
